US09445594B2
Preparation of (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanol (C31)
To 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde (WO 2011/017513) (3.00 g, 7.83 mmol) in methanol (40 mL) cooled to 0° C. was added sodium borohydride (0.296 g, 7.83 mmol). The reaction mixture was stirred for 1 hour. The mixture was acidified with aqueous hydrogen chloride (1 N) and diluted with ethyl acetate. The pH was adjusted to 7 by aqueous sodium bicarbonate. The organic phase separated, rinsed with saturated aqueous sodium bicarbonate, brine, dried over magnesium sulfate, filtered, and concentrated to provide the title compound as a solid (3.01 g, 100%): ESIMS m/z 386 ([M+H]+).

reactant | 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | 7.83 mmol, 3.00 g | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)F | C17H10F5N3O2
reactant | sodium borohydride | 7.83 mmol, 0.296 g | [BH4-].[Na+]
reactant | hydrogen chloride | 1 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)methanol | 3.01 g, 100% | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CO)F | C17H12F5N3O2
